US07132419B2
4,9-Dimethoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
A mixture of 9-chloro-4-methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (85 mg) and a 25% solution of sodium methoxide in methanol (4 mL) was heated to reflux for 6 hours. The reaction mixture was then cooled, diluted with ethyl acetate, washed with water, dried (MgSO4) and the solvent removed in vacuo to yield a yellow solid which was purified using flash chromatography to yield the desired title compound (42 mg).

reactant | 9-chloro-4-methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 85 mg | CN(CCNC(=O)C1=CC(=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)Cl)C | C22H21ClN4O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,9-Dimethoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 42 mg | CN(CCNC(=O)C1=CC(=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)OC)C | C23H24N4O3
